US06964961B2
A. (7-Chloro-thieno[3,2-b]pyridin-2-yl)-(2R)-(2-ethoxymethyl-pyrrolidin-1-yl)-methanone
NaH (80 mg, 2 mmol) was added to a solution of (2R)-(2-hydroxymethyl-pyrrolidin-1-yl)-[7-chloro-thieno[3,2-b]pyridin-2-yl]-methanone (297 mg, 1 mmol) in DMF (5 mL), at 0° C. The reaction mixture was allowed to stir for 20 min, and EtI (234 mg, 1.5 mmol) was added dropwise. After 3 h the reaction was quenched with saturated aqueous KCN (10 mL). The aqueous layer was extracted with CH2Cl2 (3×15 mL). The combined organic extracts were dried (Na2SO4), and the solvent was removed. Purification by flash chromatography on silica gel (CH2Cl2/MeOH 94:6) afforded the title compound as a white solid (145 mg, 50%). MS: 326 (MH+); HPLC Rf: 5.11 min; HPLC purity: 97%.

reactant | NaH | 2 mmol, 80 mg | [H-].[Na+]
reactant | (2R)-(2-hydroxymethyl-pyrrolidin-1-yl)-[7-chloro-thieno[3,2-b]pyridin-2-yl]-methanone | 1 mmol, 297 mg | OC[C@@H]1N(CCC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C13H13ClN2O2S
reactant | EtI | 1.5 mmol, 234 mg | C(C)I | C2H5I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (7-Chloro-thieno[3,2-b]pyridin-2-yl)-(2R)-(2-ethoxymethyl-pyrrolidin-1-yl)-methanone | 145 mg, 50% | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2[C@H](CCC2)COCC | C15H17ClN2O2S
